US08685977B2
4-(3,4-dichlorobenzyl)-3-methoxy-N-(methylsulfonyl)benzamide
To a solution of 4-(3,4-dichlorobenzyl)-3-methoxybenzamide (Preparation 155, 155 mg, 0.50 mmol) in anyhydrous THF (5 mL) was added 1M LiHMDS (1.25 mL, 1.25 mmol) via syringe. The mixture was stirred for 20 minutes before adding mesyl chloride (0.116 mL, 1.50 mmol) and then stirred for 18 hours at room temperature. The reaction was quenched with the addition of 2M HCl (20 mL), and the aqueous was extracted with EtOAc (3×20 mL). The combined organics were concentrated in vacuo and the residue was purified by silica gel column chromatography eluting with a gradient of 25% EtOAc in heptane to 100% EtOAc. The title compound was obtained as a white solid (40 mg, 21%).

reactant | 4-(3,4-dichlorobenzyl)-3-methoxybenzamide | 0.50 mmol, 155 mg | ClC=1C=C(CC2=C(C=C(C(=O)N)C=C2)OC)C=CC1Cl | C15H13Cl2NO2
reactant | LiHMDS | 1.25 mmol, 1M, 1.25 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | mesyl chloride | 1.50 mmol, 0.116 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(3,4-dichlorobenzyl)-3-methoxy-N-(methylsulfonyl)benzamide | ClC=1C=C(CC2=C(C=C(C(=O)NS(=O)(=O)C)C=C2)OC)C=CC1Cl | C16H15Cl2NO4S
